US09388106B2
2-(Isopropoxymethyl)oxirane (23.23 g, 25.1 mL, 200 mmol) was dissolved in hexane (20 mL) and placed in reactor. Separately (1.2 g, 20 mmol) of KH was slowly added to (90.1 g, 115 mL, 1.5 Mol) of isopropanol at RT. After deprotonation was complete the solution of potassium isopropoxide in isopropanol was added to the reactor. All operations were performed in a glove box. The reactor was sealed and heated 80° C. for 24 hours. After cooling acetic acid (20 mmols) and ca. 5 g. of powdered talc were added to the reaction mixture followed by filtration through a plug of celite. The solvent was evaporated and the residue distilled under vacuum affording 20.09 g of 1,3-diisopropoxypropan-2-ol.

reactant | 2-(Isopropoxymethyl)oxirane | 200 mmol, 25.1 mL, 23.23 g | C(C)(C)OCC1OC1 | C6H12O2
reactant | potassium isopropoxide | CC([O-])C.[K+]
reactant | acetic acid | 20 mmols | C(C)(=O)O | C2H4O2
solvent | hexane | 20 mL | CCCCCC | C6H14
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | isopropanol | 1.5 Mol, 115 mL, 90.1 g | C(C)(C)O | C3H8O
product | 1,3-diisopropoxypropan-2-ol | 20.09 g | C(C)(C)OCC(COC(C)C)O | C9H20O3
